US06852863B2
(3-{[{4-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-benzyl}-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester.
The title compound was prepared by alkylation of {3-[(pyridine-3-sulfonylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester (122 mg, 0.322 mmol) with [2-(4-bromomethyl-phenyl)-2-methyl-propoxy]-tert-butyl-dimethyl-silane (121 mg, 0.339 mmol) following the procedure described for Example 1, Step A. The reaction time was 1 h. The crude product (238 mg) was used in the next step without purification. MS 655 (M+1).

reactant | {3-[(pyridine-3-sulfonylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | 0.322 mmol, 122 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNS(=O)(=O)C=1C=NC=CC1)=O | C18H22N2O5S
reactant | [2-(4-bromomethyl-phenyl)-2-methyl-propoxy]-tert-butyl-dimethyl-silane | 0.339 mmol, 121 mg | BrCC1=CC=C(C=C1)C(CO[Si](C)(C)C(C)(C)C)(C)C | C17H29BrOSi
product | (3-{[{4-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-benzyl}-(pyridine-3-sulfonyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(S(=O)(=O)C=1C=NC=CC1)CC1=CC=C(C=C1)C(CO[Si](C)(C)C(C)(C)C)(C)C)=O | C35H50N2O6SSi
